* source TRANSDUCER-CHARACTERIZATION
X_U1         N00330 N00137 V- V- V+ N00167 N00757 OPA547/BB
R_R1         0 N00137  10k TC=0,0 
R_R2         N00137 N00167  50k TC=0,0 
V_V2         V+ 0 30Vdc
V_V3         0 V- 30Vdc
V_V4         N00330 0 DC 0Vdc AC 5Vac 
R_R4         N00757 0  100k TC=0,0 
R_TD_R1         N01048 TD_N00154  33.4 TC=0,0 
C_TD_C1         TD_N00150 N00167  4.2nF  TC=0,0 
C_TD_C2         N01048 N00167  15.9n  TC=0,0 
L_TD_L1         TD_N00154 TD_N00150  8.9mH  
R_R5         0 N01048  10 TC=0,0 
